US07943619B2
6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 121, 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (200 mg, 0.58 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (190 mg, 82%) which was obtained as a white solid. MS: m/e=399.1 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.58 mmol, 200 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C17H14FN3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 190 mg, 82% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C20H19FN4O4
